US07414063B2
Preparation of [2-(2-bromo-4-fluoro-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.760 g, 3.48 mmol) is added to a stirred solution of isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-fluoro-phenyloxy)-ethylamino]-ethyl}-amide (1.36 g, 2.90 mmol) in anhydrous methylene chloride (10 mL). The mixture is allowed to stir at ambient temperature for 16 hours. After concentration and MPLC separation on silica (gradient 0-3% methanol in methylene chloride), 1.19 g (72% yield) of the title compound is obtained. ESIMS: m/z 568 [(M+H)+, 79Br], 570 [(M+H)+, 81Br].

reactant | Di-tert-butyl dicarbonate | 3.48 mmol, 0.760 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-fluoro-phenyloxy)-ethylamino]-ethyl}-amide | 2.90 mmol, 1.36 g | BrC1=C(C=CC(=C1)F)OCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H19BrFN3O3S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [2-(2-bromo-4-fluoro-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 1.19 g, 72% yield | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=C(C=C1)F)Br)=O | C24H27BrFN3O5S
